US05919793
3-Ethynyl-3-hydroxyquinuclidine (1.5 g) and imidazole (1.7 g) were stirred in dimethyl formamide (25 ml). Trimethylsilylchloride (1.35 g) was added slowly to the solution and the mixture was stirred at ambient temperature for 20 hours. The reaction mixture was poured into water (150 ml) and the aqueous phase extracted with ethyl acetate (2×100 ml). The ethyl acetate extracts were combined, washed with water (2×100 ml), brine (100 ml), dried (MgSO4) and evaporated to give 3-ethynyl-3-trimethylsilyloxyquinuclidine as an oil (1.8 g), NMR: 0.15 (9H, s), 1.2-1.38 (1H, m), 1.42-1.6 (1H, m), 1.65-1.9 (3H, m), 2.55-2.7 (4H, m), 2.76 (1H, d), 3.02 (1H, d), 3.55 (1H, s), m/z 224 (M+H).

reactant | 3-Ethynyl-3-hydroxyquinuclidine | 1.5 g | C(#C)C1(CN2CCC1CC2)O | C9H13NO
reactant | imidazole | 1.7 g | N1C=NC=C1 | C3H4N2
reactant | Trimethylsilylchloride | 1.35 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | water | 150 ml | O | H2O
solvent | dimethyl formamide | 25 ml | CN(C=O)C | C3H7NO
product | 3-ethynyl-3-trimethylsilyloxyquinuclidine | 1.8 g | C(#C)C1(CN2CCC1CC2)O[Si](C)(C)C | C12H21NOSi
